US05260398
B. Preparation of 1,3-bis-(3'-(2-cyanatophenyl)-propyl)-1,1,3,3-tetramethyldisiloxane
To a 750ml methylene chloride solution containing 40.2 g (0.1 mole) of 1,3-bis-(3'-(2-hydroxylphenyl)-propyl)-1,1,3,3-tetramethyldisiloxane from A above is added 25.42 g (0.24 mole, 97% purity) of cyanogen bromide (CNBr) at -30° C. and 26.31 g (0.26 mole, 98% purity) of triethylamine is then added at -30° C. in 15 minutes. An exothermic reaction is observed. After completion of addition, the reaction temperature is maintained at -25° C. to -15° C. for 30 minutes and -15° C. to -5° C. for 30 min. The mixture is then hydrolyzed with 150 ml H2O and washed once with 0.2N HCl and three times with 150 ml portions of H2O. The solution is dried over MGSO4, resulting in 45 g of a viscous liquid after stripping off solvent at <145° C./<10 mm Hg. The structure is confirmed by IR and 1H NMR. IR(neat): 3350cm-1 (aromatic hydroxyl disappeared), 2250 cm-1 (strong --CN); 1H NMR (CDCl3): 0 to 0.8 ppm (m, Si--CH3 and Si--CH2 --), 1.6-2.0 ppm (m, --CH2 --), 2.8 ppm (t, --CH2 --), 7.3-7.6 ppm (m, Ar--H).

reactant | 1,3-bis-(3'-(2-hydroxylphenyl)-propyl)-1,1,3,3-tetramethyldisiloxane | 0.1 mole, 40.2 g | OC1=C(C=CC=C1)CCC[Si](O[Si](C)(C)CCCC1=C(C=CC=C1)O)(C)C | C22H34O3Si2
reactant | cyanogen bromide | 0.24 mole, 25.42 g | N#CBr | CBrN
reactant | triethylamine | 0.26 mole, 26.31 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 750ml | C(Cl)Cl | CH2Cl2
product | 1,3-bis-(3'-(2-cyanatophenyl)-propyl)-1,1,3,3-tetramethyldisiloxane | 45 g | O(C#N)C1=C(C=CC=C1)CCC[Si](O[Si](C)(C)CCCC1=C(C=CC=C1)OC#N)(C)C | C24H32N2O3Si2
